US07795254B2
A 25-mL round bottomed flask was charged with 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-6-methoxyquinolin-7-ol (0.124 g, 0.38 mmol), 4-nitrophenyl 5-methylisoxazol-3-ylcarbamate (0.11 g, 0.40 mmol), and THF (5.0 mL). Triethylamine (0.160 mL, 1.1 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture stirred at 50° C. for 16 h. The reaction mixture was concentrated and the residue was purified via column chromatography on silica gel (RediSep 40 g column, 100% ethyl acetate for 10 min, followed by 5% methanol/dichloromethane for 20 min) to afford 7-(7-hydroxy-6-methoxyquinolin-4-yloxy)-N-(5-methylisoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide (0.026 g, 15% yield) as a yellow solid.

reactant | 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-6-methoxyquinolin-7-ol | 0.38 mmol, 0.124 g | O1C2=C(NCC1)C=CC(=C2)OC2=CC=NC1=CC(=C(C=C21)OC)O | C18H16N2O4
reactant | 4-nitrophenyl 5-methylisoxazol-3-ylcarbamate | 0.40 mmol, 0.11 g | CC1=CC(=NO1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H9N3O5
reactant | Triethylamine | 1.1 mmol, 0.160 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 7-(7-hydroxy-6-methoxyquinolin-4-yloxy)-N-(5-methylisoxazol-3-yl)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxamide | 0.026 g, 15% yield | OC1=C(C=C2C(=CC=NC2=C1)OC=1C=CC2=C(OCCN2C(=O)NC2=NOC(=C2)C)C1)OC | C23H20N4O6
